US06358985B1
Step B: Preparation of N-{2-[3-(4-Cyano-3-fluoro-benzyl)-2-methyl-3H-imidazol-4-yl]-ethyl}-5-hydroxy-2-iodobenzamide
A stirred mixture of 4-[5-(2-amino-ethyl)-2-(methyl)-imidazol-1-ylmethyl]-2-fluoro-benzonitrile dihydrochloride as prepared in Example 10, Step A (2.00 g, 6.038 mmol), 5-hydroxy-2-iodobenzoic acid (1.594 g, 6.038 mmol), 1-Hydroxybenzotriazole hydrate (816 mg, 6.038 mmol), and triethylamine (2.52 mL, 18.114 mmol) in dry DMF (12.0 mL) was cooled to 0° C., and EDC (1.158 g, 6.038 mmol) was added. After stirring at 0° C. for 15 minutes, the reaction mixture was stirred at ambient temperature overnight, then poured into water and extracted with EtOAc. The organic layer was dried (MgSO4), filtered, and concentrated under reduced pressure. The residue was preabsorbed onto silica gel and purified by flash chromatography eluting with a gradient of 6-9% MeOH/CH2Cl2 to give the titled product.

reactant | 4-[5-(2-amino-ethyl)-2-(methyl)-imidazol-1-ylmethyl]-2-fluoro-benzonitrile dihydrochloride | Cl.Cl.NCCC1=CN=C(N1CC1=CC(=C(C#N)C=C1)F)C
reactant | 5-hydroxy-2-iodobenzoic acid | 6.038 mmol, 1.594 g | OC=1C=CC(=C(C(=O)O)C1)I | C7H5IO3
reactant | 1-Hydroxybenzotriazole hydrate | 6.038 mmol, 816 mg | O.ON1N=NC2=C1C=CC=C2
reactant | triethylamine | 18.114 mmol, 2.52 mL | C(C)N(CC)CC | C6H15N
reactant | EDC | 6.038 mmol, 1.158 g
solvent | DMF | 12.0 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | N-{2-[3-(4-Cyano-3-fluoro-benzyl)-2-methyl-3H-imidazol-4-yl]-ethyl}-5-hydroxy-2-iodobenzamide | C(#N)C1=C(C=C(CN2C(=NC=C2CCNC(C2=C(C=CC(=C2)O)I)=O)C)C=C1)F | C21H18FIN4O2
